US04007176
The sodium salt of 3-acetoxymethyl-2-carboxy-7-[(5,6-dihydro-1,4-oxathiin-2-yl )acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (14 g.) is dissolved in distilled water (350 cc.). Sodium bicarbonate (2.69 g.) followed by 2-methyl-5-thioxo-1,3,4-thiadiazoline (4.65 g.) are added to the solution and the reaction mixture is heated with stirring at 60° C. for 6 hours. After cooling, the reaction mixture is washed with ethyl acetate (2 × 150 cc.) and then acidified to pH 2 by addition of 4N hydrochloric acid in the presence of ethyl acetate (350 cc.). After decanting the organic phase, the aqueous phase is extracted twice with ethyl acetate (total 150 cc.). The organic extracts are combined, washed six times with water (total 600 cc.), dried over sodium sulphate, treated with decolourizing charcoal, filtered and then concentrated under reduced pressure (20 mm.Hg) to a final volume of 80 cc. After 30 minutes at 2° C., the solid compound which has formed is filtered off and then washed twice with ethyl acetate (10 cc.) and finally with diisopropyl ether (100 cc.). After drying under reduced pressure (0.5 mm.Hg), 2-carboxy-7-[(5,6-dihydro-1,4-oxathiin-2-yl )acetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl )thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (7.5 g.) is obtained.

reactant | sodium | [Na] | Na
reactant | 3-acetoxymethyl-2-carboxy-7-[(5,6-dihydro-1,4-oxathiin-2-yl )acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 14 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1OCCSC1)=O)=O)C(=O)O | C16H18N2O7S2
reactant | Sodium bicarbonate | 2.69 g | C([O-])(O)=O.[Na+]
reactant | 2-methyl-5-thioxo-1,3,4-thiadiazoline | 4.65 g | CC=1SC(NN1)=S | C3H4N2S2
solvent | water | 350 cc | O | H2O
product | 2-carboxy-7-[(5,6-dihydro-1,4-oxathiin-2-yl )acetamido]-3-[(5-methyl-1,3,4-thiadiazol-2-yl )thiomethyl]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 7.5 g | C(=O)(O)C=1N2C(C(C2SCC1CSC=1SC(=NN1)C)NC(CC=1OCCSC1)=O)=O | C17H18N4O5S4
